US06458780B1
7-(4-Nitrobenzylsulfamoyl)-2-(tri-n-butylstannyl)-imidazo[5,1-b]thiazole
A 1.0 N lithiumbis(trimethylsilyl)amide/n-hexane solution (4.8 ml) was added to a solution of 0.68 g of 7-(4-nitrobenzylsulfamoyl)imidazo[5,1-b]thiazole in 20 ml of THF and 4 ml of HMPA in an argon atmosphere at −40° C. The mixture was stirred at the same temperature for 30 min. Tri-n-butylstannyl chloride (0.57 ml) was added thereto. The mixture was stirred at the same temperature for 30 min. A saturated aqueous ammonium chloride solution was added thereto. Ethyl acetate was then added thereto. The mixture was then washed with water and saturated brine in that order. The organic layer was dried over anhydrous magnesium sulfate. The solvent was removed by distillation. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=1:1) to give 0.78 g of the tile compound.

reactant | lithiumbis(trimethylsilyl)amide n-hexane | 1.0 N, 4.8 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+].CCCCCC
reactant | 7-(4-nitrobenzylsulfamoyl)imidazo[5,1-b]thiazole | 0.68 g | [N+](=O)([O-])C1=CC=C(CNS(=O)(=O)C=2N=CN3C2SC=C3)C=C1 | C12H10N4O4S2
reactant | Tri-n-butylstannyl chloride | 0.57 ml | C(CCC)[Sn](CCCC)(CCCC)Cl
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | HMPA | 4 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-(4-Nitrobenzylsulfamoyl)-2-(tri-n-butylstannyl)-imidazo[5,1-b]thiazole | 0.78 g | [N+](=O)([O-])C1=CC=C(CNS(=O)(=O)C=2N=CN3C2SC(=C3)[Sn](CCCC)(CCCC)CCCC)C=C1 | InChI=1S/C12H9N4O4S2.3C4H9.Sn/c17-16(18)10-3-1-9(2-4-10)7-14-22(19,20)11-12-15(8-13-11)5-6-21-12;3*1-3-4-2;/h1-5,8,14H,7H2;3*1,3-4H2,2H3;
